Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
gait instability
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ year-old R-handed woman with history
of Alzheimer's dementia who presents with a 1 day history of 
gait
instability.  History is relayed through patient and
daughter-in-law who is at the bedside.  Ms ___, 
currently
resides in a assisted living facility for Alzheimer's disease
patients.  They called the daughter-in-law this morning after
they found that Ms ___ was unable to walk.  Per report,
she continued to fall toward the right side.  They attributed
this to her early morning state, and hoped that it would improve
as the day went forward.  however, by early afternoon, not only
were the symptoms not improved but they seemed worse and
therefore she was brought in for further evaluation.  

 
Past Medical History:
-Alzheimer's Dementia - followed at ___
-Had an appendectomy years ago

 
Social History:
___
Family History:
noncontributory, but no dementia, strokes or neurologic diseases

 
Physical Exam:
Vitals: T:98.2  P:83  R: 16  BP:170/94  SaO2:99%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: warm and well perfused

Neurologic:
-Mental Status: alert, oriented to self, but states it is the
___.  Knows she is in a medical place but unsure
where.  Able to relate history but with moderate difficulty and
confusion. Inattentive, unable to name ___ forward or backward. 
Easily frustrated.  Language is fluent with intact repetition 
and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name high frequency with some difficulty with 
low
frequency objects.  Able to read without difficulty.  Speech was
not dysarthric. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Ataxic movements on the right upper extremity 
with
FNF.  dysdiadochokinesia noted in right lower extremity with 
HKS.
+ Rebound on the right.  Overshoot on the right.

-Gait: Good initiation. Narrow-based, persistently ataxic 
falling
to the right.  normal stride and arm swing.  

Romberg absent.

 
Pertinent Results:
___ 07:40PM BLOOD WBC-7.8 RBC-4.57 Hgb-13.8 Hct-41.5 MCV-91 
MCH-30.1 MCHC-33.1 RDW-13.7 Plt ___
___ 07:40PM BLOOD ___ PTT-20.6* ___
___ 07:40PM BLOOD Glucose-124* UreaN-15 Creat-0.9 Na-141 
K-4.3 Cl-105 HCO3-23 AnGap-17
___ 07:40PM BLOOD ALT-12 AST-20 LD(LDH)-296* AlkPhos-56 
TotBili-0.2
___ 11:10AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.1 Cholest-224*
___ 11:10AM BLOOD Triglyc-194* HDL-60 CHOL/HD-3.7 
LDLcalc-125
___ 11:10AM BLOOD %HbA1c-5.5 eAG-111
TOX SCREEN NEGATIVE

URINE STUDIES
URINE Blood-SM Nitrite-POS Protein-25 Glucose-NEG Ketone-TR 
Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ Bacteri-MANY Yeast-NONE ___

URINE TOX NEGATIVE

UCX: >100,000 E COLI (PAN-SENSITIVE)

EKG: Sinus rhythm with ectopic atrial rhythm. Delayed QRS 
transition in the precordial leads. Non-specific T wave changes 
in leads aVL and III. No 
previous tracing available for comparison.  

IMAGING:
NONCONTRAST HEAD CT:
There is no intracranial hemorrhage. The gray-white matter 
differentiation is preserved. There is no edema or mass effect. 
The 
ventricles are prominent in size consistent with age-related 
atrophic changes. 
Periventricular white matter hypodensities are consistent with 
small vessel ischemic disease. A focal hypodensity within the 
right basal ganglia likely represents a chronic lacune. 
Paranasal sinuses and mastoid air cells are clear. 

MRI/A HEAD AND NECK:
Area of subacute ischemia is identified involving the 
postero-lateral aspect of the left thalamus as described in 
detail above, 
visualized on the ADC, T2 and FLAIR sequences. 
  
Chronic microvascular ischemic changes with associated cortical 
volume loss as described in detail above. 
  
The area of ischemia also is involving the lateral aspect of the 
left 
thalamus. 

Limited examination with possible arteriosclerotic changes and 
narrowing of the distal branches of the MCA as described above. 
The left 
vertebral artery is patent as well as the basilar artery; 
however, the right vertebral artery is not clearly identified, 
possibly terminating in ___.  Hypoplasia of the A1 segment on 
the right is identified. 

CXR
No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
Ms ___ is a ___ year-old R-handed woman with
history of Alzheimer's dementia who presents with a 1 day 
history
of gait instability.  

# L THAMALMIC STROKE:
Neurologic examination at admission was notable for ataxia on 
the right
side, overshooting on the right, rebound on the right, as well 
as
continued difficulties with ambulation with falling onto the the
right side.  Her NCHCT was negative for any acute processes
without any overt evidence of ischemia. Due to concern for 
stroke, she was admitted to neurology. MRI showed acute left 
thalamic infarct. MRA showed diffuse atherosclerosis with 
narrowing in distal MCAs but without any significant occlusive 
disease. The etiology of this small stroke is likely small 
vessel disease. The patient underwent a stroke workup including 
echocardiogram, toxic/metabolic studies, ___. 
She was started on ASA 325 mg and simvastatin. Her fasting lipid 
panel showed total cholesterol 224, HDL 60, LDL 125 and 
triglycerides 194.
She was monitored on telemetry and had no arrhythmias. 

# UTI:
Positive UA, Ucx for E coli, pansensitive, completed ___actrim for uncomplicated UTI.

# ___:
Patient was ambulating more steadily and was cleared by ___ 
for discharge home with services to her group living facility.

# CODE STATUS: Family determined she was DNR/DNI during this 
admission.
 
Medications on Admission:
-Vitamin B12 1000 qAM
-Vitamin D 800 qAM
-Donepezil 10 qHS
-Namenda 10 BID
-Venlafaxine 75 q AM, 150 q ___

 
Discharge Medications:
1. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
4. donepezil 10 mg Tablet Sig: One (1) Tablet PO once a day.  
5. memantine 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
6. venlafaxine 75 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
7. venlafaxine 75 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
8. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left thalamic stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro status: mild right upper extremity dysmetria

 
Discharge Instructions:
You were admitted for difficulty walking. You were found to have 
a small stroke in your left thalamus. This was likely caused by 
atherosclerosis (plaque buildup) on the small blood vessels that 
supply this part of the brain. You were started on full dose 
aspirin 325 mg and simvastatin, which will help prevent more 
strokes.  
 
Followup Instructions:
___